US04342781
3-Phenyl-3-(4-Nitrophenyl)propenoic Acid
A mixture of 62.5 g. of ethyl 3-phenyl-3-(4-nitrophenyl)propenoate, 100 ml. of ethanol and 300 ml. of 1.5 N potassium hydroxide was heated on a steam bath for 1 hour. To the cooled reaction mixture was added 800 ml. of water and 500 ml. of ethyl acetate, and then the ethyl acetate layer was removed. The aqueous layer was acidified, and the solid which precipitated was collected by filtration. This solid was recrystallized from toluene and then from carbon tetrachloride to give 22 g. of the title compound, m.p. 188°-189° C.

reactant | ethyl 3-phenyl-3-(4-nitrophenyl)propenoate | C1(=CC=CC=C1)C(=CC(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C17H15NO4
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | 1.5 N | [OH-].[K+]
solvent | water | O | H2O
product | 3-Phenyl-3-(4-Nitrophenyl)propenoic Acid | C1(=CC=CC=C1)C(=CC(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H11NO4
